data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3923,4487,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[CH:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[NH:16][CH:17]1[C:18]([CH3:19])=[O:20],water,298.15,21.51143768620665,-11.132872490258585
5210,5911,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[CH-:18][NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[CH:18]([C:16]([CH3:15])=[O:17])[NH:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,14.051773749085786,8.258680951168143
1392,1531,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:13]=[N:14][C:15]2([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,8.944784763560742,-32.14438757061533
5204,5905,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N+:16]([CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)=[C:24]([C:25]#[N:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[N:16]([CH3:15])[C:24]2([C:25]#[N:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,15.995435361088198,-12.432620856016614
2689,2987,[CH3:19][NH:20][C:21](=[O:22])[C:23]([CH3:24])=[NH+:25][C-:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][CH:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([CH:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([CH3:24])[NH:25][C:26]2([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,26.96691962407404,-44.052872368276645
1817,2012,[CH3:13][O:14][C:15](=[O:16])[C-:17]([C:18]#[N:19])[N+:20]([CH3:21])=[CH:22][C:23]([CH3:24])=[O:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:22]([C:23]([CH3:24])=[O:25])[N:20]([CH3:21])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,35.00353991163004,-8.408989118206232
1998,2219,[CH3:14][NH:15][C:16](=[O:17])[CH:18]=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[N:19]([CH3:20])[C:21]2([C:22](=[O:23])[NH:24][CH3:25])[C:26](=[O:27])[NH:28][CH3:29],water,298.15,17.03940507065116,-34.48254906129395
216,236,[CH3:9][NH:10][C:11](=[O:12])[C:13]([CH3:14])=[NH+:15][C-:16]([CH3:17])[CH3:18].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:16]([CH3:17])([CH3:18])[NH:15][C:13]2([C:11]([NH:10][CH3:9])=[O:12])[CH3:14],water,298.15,16.633793036425462,-51.48961095042519
4711,5379,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([CH3:16])[N+:17]([CH3:18])=[CH:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([CH3:16])[N:17]([CH3:18])[CH:19]2[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,18.728444195086865,-21.068022845993408
3795,4345,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]([C:18]([CH3:19])=[O:20])=[N:16][N:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,13.921397564141808,-27.69590599428181
